US06498165B1
Step A: 3-(N,N-Diethylaminosulfonyl)benzoic Acid
To a solution of 3-(chlorosulfonyl)benzoic acid (1.02 g, 4.62 mmol) in CH2Cl2 (100 mL) at 0° C. was added diethylamine (2.4 mL, 23 mmol). The resulting mixture was stirred at 0° C. for 3 h then worked up by adding 2N aqueous HCl and extracting 3× with EtOAc. The combined organic was washed with brine then dried over MgSO4 and concentrated under reduced pressure. The residue was used without further purification.

reactant | 3-(chlorosulfonyl)benzoic acid | 4.62 mmol, 1.02 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | diethylamine | 23 mmol, 2.4 mL | C(C)NCC | C4H11N
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(N,N-Diethylaminosulfonyl)benzoic Acid | C(C)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)CC | C11H15NO4S
